### PR TITLE
[Merged by Bors] - feat(RingTheory/TwoSidedIdeal): add some basic operations on two-sided-ideals

### PR DESCRIPTION
**Pull request by jjaassoonn**
Co-authored-by: Jireh Loreaux <oreaujy@gmail.com>

---

- [x] depends on: #14456

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/TwoSidedIdeal/BigOperators.lean [hunk 1]
```diff
@@ -0,0 +1,37 @@
...
+Copyright (c) 2024 Jujian Zhang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jujian Zhang
+-/
+
+import Mathlib.RingTheory.Congruence.BigOperators
+import Mathlib.RingTheory.TwoSidedIdeal.Basic
+
+/-!
+# Interactions between `∑, ∏` and Two-Sided-Ideals
```
Comment (semorrison) [inline Mathlib/RingTheory/TwoSidedIdeal/BigOperators.lean:11]:
```suggestion
# Interactions between `∑, ∏` and two sided ideals
```

Comment (semorrison) [reply Mathlib/RingTheory/TwoSidedIdeal/BigOperators.lean:11]: and below.

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 2]
```diff
@@ -0,0 +1,199 @@
...
+
+## Main definitions and results
+- `TwoSidedIdeal.span`: the span of `s ⊆ R` is the smallest two-sided-ideal containing the set.
+- `TwoSidedIdeal.mem_span_iff_exists`: an element `x` is in the span of `s` if and only if it can be
+  written as a finite sum of the form `∑ i, xL i * y i * xR i` where `xL i ∈ s`, `y i ∈ R`, and
+  `xR i ∈ s`.
+
+- `TwoSidedIdeal.comap`: pullback of a two-sided-ideal; defined as the preimage of a
+  two-sided-ideal.
+- `TwoSidedIdeal.map`: pushout of a two-sided-ideal; defined as the span of the image of a
```
Comment (semorrison) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:29]: I don't think pushout is what you mean here. Perhaps "push forward"?

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 3]
```diff
@@ -0,0 +1,199 @@
...
+/-- Every two-sided-ideal is also a left-ideal. -/
+def asIdeal : TwoSidedIdeal R →o Ideal R where
+  toFun I :=
+  { carrier := I
+    add_mem' := I.add_mem
+    zero_mem' := I.zero_mem
+    smul_mem' := fun r x hx => I.mul_mem_left r x hx }
+  monotone' _ _ h _ h' := h h'
+
+/--Given an ideal `I`, `span I` is the smallest two-sided-ideal containing `I`.-/
```
Comment (semorrison) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:160]:
```suggestion
/-- Given an ideal `I`, `span I` is the smallest two-sided-ideal containing `I`. -/
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 4]
```diff
@@ -0,0 +1,199 @@
...
+def fromIdeal : Ideal R →o TwoSidedIdeal R where
```
Comment (semorrison) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:161]: I think this, and below, either need `@[simps]` or hand written simp lemmas.

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:29]: indeed, thanks!

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 4 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean]: I have handwritten `mem_...` lemmas, `simps` lemma will be about `ringCon` which hopeful would be avoided after enough API

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 5]
```diff
@@ -0,0 +1,207 @@
...
+lemma span_mono {s t : Set R} (h : s ⊆ t) : span s ≤ span t := by
+  intro x hx
+  rw [mem_span_iff] at hx ⊢
+  exact fun I hI => hx I $ h.trans hI
+
+end NonUnitalNonAssocRing
+
+section NonAssocRing
+
+variable {R S : Type*} [NonAssocRing R] [NonAssocRing S]
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:71]: Why exactly do you require the rings in this section to be unital? All of these concepts should work for non-unital rings too.

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 6]
```diff
@@ -0,0 +1,207 @@
...
+end NonAssocRing
+
+section Ring
+
+variable {R : Type*} [Ring R]
+
+lemma mem_span_iff_exists {s : Set R} {x} :
+    x ∈ span s ↔
+    ∃ (ι : Type) (fin : Fintype ι) (xL : ι → R) (xR : ι → R) (y : ι → s),
+      x = ∑ i : ι, xL i * (y i : R) * xR i := by
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:119]: 1. Why not work with `Finset` instead of the existence of a `Fintype`? It seems to me that would be far less hassle. 
2. This version is only true for `Ring`s. It would be nice to have the other statement for non-unital rings. (The one for non-associative rings I think is too messy to include, unless someone can convince me otherwise.)

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 7]
```diff
@@ -0,0 +1,207 @@
...
+
+
+/-!
+# Operations on Two-Sided-Ideals
+
+This file defines operations on two-sided-ideals of a ring `R`.
+
+## Main definitions and results
+- `TwoSidedIdeal.span`: the span of `s ⊆ R` is the smallest two-sided-ideal containing the set.
+- `TwoSidedIdeal.mem_span_iff_exists`: an element `x` is in the span of `s` if and only if it can be
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:23]:
```suggestion
- `TwoSidedIdeal.mem_span_iff_exists`: in a unital and associative ring, an element `x` is in the span of `s` if and only if it can be
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 5 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:71]: These construction needs the concept of `RingHomClass`, which requires a `1`.

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:119]: Re 2:
I am not sure I know how to prove it without a `1`. Say $x \in s$ and I want to prove that $x = \sum_{i \in I} x_i y_i x_i'$ for some indexing set $I$, some $x_i, x_i' \in R$ and $y_i \in I$ , my approach was $I$ is a one point set works and $x_i = x_i' = 1$ and $y_i = x$ works

Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:119]: Re 1: I think you are thinking proving the following
```
example {ι : Type*} {s : Set R} {x} :
    x ∈ span s ↔
    ∃ (t : Finset ι) (xL : ι → R) (xR : ι → R) (y : ι → s),
      x = ∑ i ∈ t, xL i * (y i : R) * xR i
```

Assume we still use the same approach, i.e. prove `S := {x | ∃ (t : Finset ι) (xL : ι → R) (xR : ι → R) (y : ι → s),
      x = ∑ i ∈ t, xL i * (y i : R) * xR i}` is a two sided ideal. Then when proving `0` is in `S`, we need to find an actual `ι → s` but then we need to exclude the case where `s` is empty and prove it separately.

Comment (j-loreaux) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:119]: Re 2: the statement *as written* is definitely not true without a 1. There is an analogous statement for non-unital rings. The ideal generated by a set consists of the sum of four sums: elements of the set, product, of elements of the set with elements of the ring, products of elements of the ring with elements of the set, and triple products of the form you wrote.

Comment (j-loreaux) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:119]: Re 1: I would have maybe phrased it differently in the proof, maybe something like: `S` is the set of sums over `Finset`s where each term in the finset can be written as a triple product.

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 5 above)
Comment (j-loreaux) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:71]: Okay, but they shouldn't. If they do, it's a deficiency with `RingCon` that needs to be fixed first.

File: Mathlib/RingTheory/TwoSidedIdeal/BigOperators.lean [hunk 8]
```diff
@@ -0,0 +1,37 @@
...
+Copyright (c) 2024 Jujian Zhang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jujian Zhang
+-/
+
+import Mathlib.RingTheory.Congruence.BigOperators
+import Mathlib.RingTheory.TwoSidedIdeal.Basic
+
+/-!
+# Interactions between `∑, ∏` and two sided ideals
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/BigOperators.lean:11]: done

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 5 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean]: This has been relaxed

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:127]: Re 2: I have added a proof wanted, I tried to fiddle with it a bit, but couldn't do it. Can you check if it is the statement that you want:
```lean
proof_wanted mem_span_iff_exists_nonunital {s : Set R} {z : R} :
    z ∈ span s ↔
    ∃ (t : Finset R) (_ : (t : Set R) ⊆ s) (n : R → ℤ)
      (α : R → R) (β : R → R) (xy : R → R →₀ (R × R)),
      z = ∑ r ∈ t, (n r • r + α r * r + r * β r +
        ∑ i ∈ (xy r).support, (xy r i).1 * r * (xy r i).2)
```

Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:127]: Re 1:
I could state it like the following
```lean
lemma mem_span_iff_exists' {s : Set R} {x} :
    x ∈ span s ↔
    ∃ (c : R →₀ R × R) (_ : (c.support : Set R) ⊆ s), x = c.sum fun i xy => xy.1 * i * xy.2 := by
```
But I struggled with the proof: when proving `{x | ∃ (c : R →₀ R × R) (_ : (c.support : Set R) ⊆ s), x = c.sum fun i xy => xy.1 * i * xy.2}` is a two sided ideal, I can't get the closed under addition working for it involves two `Finsupp` whose support are not disjoint.
By using `Fintype`, I can get disjointness for free.

Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:127]: Re 1:
I am convinced the following is the best form:
```lean
lemma mem_span_iff_exists' {s : Set R} {x} :
    x ∈ span s ↔
    ∃ (c : R →₀ R × R) (_ : (c.support : Set R) ⊆ s), x = c.sum fun i xy => xy.1 * i * xy.2 := by
```
But I struggle again to prove it:
I want to say `{x | ∃ (c : R →₀ R × R) (_ : (c.support : Set R) ⊆ s), x = c.sum fun i xy => xy.1 * i * xy.2}` is a two-sided-ideal, but I can't prove that it is closed under addition

Comment (j-loreaux) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:127]: okay, I will have a look. Thanks for thinking about this.

Comment (j-loreaux) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:127]: Indeed, allowing `ℤ`-scalar multiples in the sum corrects this.

Comment (j-loreaux) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:211]: @jjaassoonn I took the liberty of pushing a few results. They are not phrased exactly in the same way, but I think they should be reasonably useful as is.

In fact, by combining [AddSubgroup.mem_sup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Basic.html#AddSubgroup.mem_sup), [AddSubgroup.closure_union](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Basic.html#AddSubgroup.closure_union), and [AddSubmonoid.exists_multiset_of_mem_closure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Submonoid/Membership.html#AddSubmonoid.exists_multiset_of_mem_closure), it is possible to recover from my results some expressions in terms of sums of multisets.

Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean]: Thanks a lot! I have removed `TwosidedIdeal.mem_span_iff_exists` for now in favour of your lemmas!

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 9]
```diff
@@ -0,0 +1,257 @@
...
+  two-sided-ideal.
+- `TwoSidedIdeal.ker`: the kernel of a ring homomorphism as a two-sided-ideal.
+-/
+
+namespace TwoSidedIdeal
+
+section NonUnitalNonAssocRing
+
+variable {R S : Type*} [NonUnitalNonAssocRing R] [NonUnitalNonAssocRing S]
+variable {F : Type*} [FunLike F R S] [AddMonoidHomClass F R S] [MulHomClass F R S]
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:39]:
```suggestion
variable {F : Type*} [FunLike F R S] [NonUnitalRingHomClass F R S]
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 10]
```diff
@@ -0,0 +1,257 @@
...
+import Mathlib.RingTheory.TwoSidedIdeal.BigOperators
+import Mathlib.RingTheory.Congruence.Opposite
+import Mathlib.Algebra.BigOperators.Ring
+import Mathlib.Data.Fintype.BigOperators
+import Mathlib.RingTheory.Ideal.Basic
+import Mathlib.Order.GaloisConnection
+
+
+/-!
+# Operations on Two-Sided-Ideals
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:17]:
```suggestion
# Operations on two-sided ideals
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 11]
```diff
@@ -0,0 +1,257 @@
...
+
+This file defines operations on two-sided-ideals of a ring `R`.
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:19]:
```suggestion
This file defines operations on two-sided ideals of a ring `R`.
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 12]
```diff
@@ -0,0 +1,257 @@
...
+
+## Main definitions and results
+- `TwoSidedIdeal.span`: the span of `s ⊆ R` is the smallest two-sided-ideal containing the set.
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:22]:
```suggestion
- `TwoSidedIdeal.span`: the span of `s ⊆ R` is the smallest two-sided ideal containing the set.
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 13]
```diff
@@ -0,0 +1,257 @@
...
+- `TwoSidedIdeal.mem_span_iff_exists`: in a unital and associative ring, an element `x` is in the
+  span of `s` if and only if it can be written as a finite sum of the form `∑ i, xL i * y i * xR i`
+  where `xL i ∈ s`, `y i ∈ R`, and `xR i ∈ s`.
+
+- `TwoSidedIdeal.comap`: pullback of a two-sided-ideal; defined as the preimage of a
+  two-sided-ideal.
+- `TwoSidedIdeal.map`: pushforward of a two-sided-ideal; defined as the span of the image of a
+  two-sided-ideal.
+- `TwoSidedIdeal.ker`: the kernel of a ring homomorphism as a two-sided-ideal.
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:31]:
```suggestion
- `TwoSidedIdeal.comap`: pullback of a two-sided ideal; defined as the preimage of a
  two-sided ideal.
- `TwoSidedIdeal.map`: pushforward of a two-sided ideal; defined as the span of the image of a
  two-sided ideal.
- `TwoSidedIdeal.ker`: the kernel of a ring homomorphism as a two-sided ideal.
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 14]
```diff
@@ -0,0 +1,257 @@
...
+namespace TwoSidedIdeal
+
+section NonUnitalNonAssocRing
+
+variable {R S : Type*} [NonUnitalNonAssocRing R] [NonUnitalNonAssocRing S]
+variable {F : Type*} [FunLike F R S] [AddMonoidHomClass F R S] [MulHomClass F R S]
+variable (f : F)
+
+/--
+The smallest two-sided-ideal containing a set.
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:43]:
```suggestion
The smallest two-sided ideal containing a set.
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 15]
```diff
@@ -0,0 +1,257 @@
...
+  specialize hI hxy
+  rwa [SetLike.mem_coe, ← rel_iff] at hI
+
+lemma span_mono {s t : Set R} (h : s ⊆ t) : span s ≤ span t := by
+  intro x hx
+  rw [mem_span_iff] at hx ⊢
+  exact fun I hI => hx I $ h.trans hI
+
+/--
+preimage of a two-sided-ideal is still two-sided -/
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:70]:
```suggestion
preimage of a two-sided ideal is still two-sided -/
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 16]
```diff
@@ -0,0 +1,257 @@
...
+def comap (I : TwoSidedIdeal S) : TwoSidedIdeal R :=
+{ ringCon := I.ringCon.comap f }
+
+lemma mem_comap {I : TwoSidedIdeal S} {x : R} :
+    x ∈ I.comap f ↔ f x ∈ I := by
+  simp [comap, RingCon.comap, mem_iff]
+
+/--
+pushout of a two-sided-ideal defined as the span of the image of a two-sided-ideal under some ring
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:79]:
```suggestion
pushout of a two-sided ideal defined as the span of the image of a two-sided ideal under some ring
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 17]
```diff
@@ -0,0 +1,257 @@
...
+-/
+def map (I : TwoSidedIdeal R) : TwoSidedIdeal S :=
+  span (f '' I)
+
+lemma map_mono {I J : TwoSidedIdeal R} (h : I ≤ J) :
+    map f I ≤ map f J :=
+  span_mono $ Set.image_mono h
+
+/--
+kernel of a ring homomorphism as a two-sided-ideal.
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:90]:
```suggestion
kernel of a ring homomorphism as a two-sided ideal.
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 18]
```diff
@@ -0,0 +1,257 @@
...
+    · exact mem_span_iff.mp hz (span s) <| subset_mul_set (set_mul_subset subset_span _) _
+  · refine mem_span_iff_mem_addSubgroup_closure_absorbing ?_ ?_
+    · intro x y hy
+      rw [mul_assoc] at hy ⊢
+      obtain ⟨r, -, y, hy, rfl⟩ := hy
+      exact ⟨x * r, mem_univ _, y, hy, mul_assoc ..⟩
+    · rintro - x ⟨y, hy, r, -, rfl⟩
+      exact ⟨y, hy, r * x, mem_univ _, (mul_assoc ..).symm⟩
+
+/-- Given an ideal `I`, `span I` is the smallest two-sided-ideal containing `I`. -/
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:201]:
```suggestion
/-- Given an ideal `I`, `span I` is the smallest two-sided ideal containing `I`. -/
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 19]
```diff
@@ -0,0 +1,257 @@
...
+def fromIdeal : Ideal R →o TwoSidedIdeal R where
+  toFun I := span I
+  monotone' _ _ := span_mono
+
+lemma mem_fromIdeal {I : Ideal R} {x : R} :
+    x ∈ fromIdeal I ↔ x ∈ span I := by simp [fromIdeal]
+
+/-- Every two-sided-ideal is also a left-ideal. -/
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:209]:
```suggestion
/-- Every two-sided ideal is also a left ideal. -/
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 20]
```diff
@@ -0,0 +1,257 @@
...
+  { carrier := I
+    add_mem' := I.add_mem
+    zero_mem' := I.zero_mem
+    smul_mem' := fun r x hx => I.mul_mem_left r x hx }
+  monotone' _ _ h _ h' := h h'
+
+lemma mem_asIdeal {I : TwoSidedIdeal R} {x : R} :
+    x ∈ TwoSidedIdeal.asIdeal I ↔ x ∈ I := by simp [asIdeal]
+
+/-- Every two-sided-ideal is also a right ideal. -/
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:221]:
```suggestion
/-- Every two-sided ideal is also a right ideal. -/
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 21]
```diff
@@ -0,0 +1,257 @@
...
+    ⟨I.ringCon.symm, I.ringCon.symm⟩
+
+end Ring
+
+section CommRing
+
+variable {R : Type*} [CommRing R]
+
+/--
+When the ring is commutative, two-sided-ideals are exactly the same as left ideals.
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:240]:
```suggestion
When the ring is commutative, two-sided ideals are exactly the same as left ideals.
```

File: Mathlib/RingTheory/Congruence/Basic.lean [hunk 22]
```diff
@@ -126,6 +126,16 @@ theorem ext' {c d : RingCon R} (H : ⇑c = ⇑d) : c = d := DFunLike.coe_injecti
 theorem ext {c d : RingCon R} (H : ∀ x y, c x y ↔ d x y) : c = d :=
   ext' <| by ext; apply H
 
+/--
+Pulling back a RingCon across a ring hom.
```
Comment (j-loreaux) [inline Mathlib/RingTheory/Congruence/Basic.lean:130]:
```suggestion
Pulling back a `RingCon` across a ring homomorphism.
```

**Review by j-loreaux — COMMENTED** [review]
@jjaassoonn can you fix the build error and address these comments if you have time? If you don't have time, I'm happy to help out.

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 23]
```diff
@@ -0,0 +1,257 @@
...
+def orderIsoIdeal : TwoSidedIdeal R ≃o Ideal R where
+  toFun := asIdeal
+  invFun := fun I => .mk' I I.zero_mem I.add_mem I.neg_mem
+    (fun _ {_} h => I.mul_mem_left _ h )
+    (fun {x y} h => I.mul_mem_right y h )
+  map_rel_iff' {I J} := by
+    constructor
+    · intro h x hx
+      exact h hx
+    · apply asIdeal.monotone'
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean]: Indeed!

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 24]
```diff
@@ -0,0 +1,257 @@
...
+/-!
+# Operations on Two-Sided-Ideals
+
+This file defines operations on two-sided-ideals of a ring `R`.
+
+## Main definitions and results
+- `TwoSidedIdeal.span`: the span of `s ⊆ R` is the smallest two-sided-ideal containing the set.
+- `TwoSidedIdeal.mem_span_iff_exists`: in a unital and associative ring, an element `x` is in the
+  span of `s` if and only if it can be written as a finite sum of the form `∑ i, xL i * y i * xR i`
+  where `xL i ∈ s`, `y i ∈ R`, and `xR i ∈ s`.
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean]: done

**Comment by jjaassoonn** [comment]
> @jjaassoonn can you fix the build error and address these comments if you have time? If you don't have time, I'm happy to help out.

So sorry for the delay, I was away. Now everything builds! Thanks for the help!

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 25]
```diff
@@ -0,0 +1,262 @@
...
+  specialize hI hxy
+  rwa [SetLike.mem_coe, ← rel_iff] at hI
+
+lemma span_mono {s t : Set R} (h : s ⊆ t) : span s ≤ span t := by
+  intro x hx
+  rw [mem_span_iff] at hx ⊢
+  exact fun I hI => hx I <| h.trans hI
+
+/--
+pushout of a two-sided ideal defined as the span of the image of a two-sided ideal under some ring
```
Comment (kbuzzard) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:73]:
```suggestion
Pushout of a two-sided ideal. Defined as the span of the image of a two-sided ideal under a ring
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 26]
```diff
@@ -0,0 +1,262 @@
...
+  span (f '' I)
+
+lemma map_mono {I J : TwoSidedIdeal R} (h : I ≤ J) :
+    map f I ≤ map f J :=
+  span_mono <| Set.image_mono h
+
+variable [NonUnitalRingHomClass F R S]
+
+/--
+preimage of a two-sided ideal is still two-sided -/
```
Comment (kbuzzard) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:86]:
```suggestion
/--
Preimage of a two-sided ideal, as a two-sided ideal. -/
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 27]
```diff
@@ -0,0 +1,262 @@
...
+def comap (I : TwoSidedIdeal S) : TwoSidedIdeal R :=
+{ ringCon := I.ringCon.comap f }
+
+lemma mem_comap {I : TwoSidedIdeal S} {x : R} :
+    x ∈ I.comap f ↔ f x ∈ I := by
+  simp [comap, RingCon.comap, mem_iff]
+
+/--
+kernel of a ring homomorphism as a two-sided ideal.
```
Comment (kbuzzard) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:95]:
```suggestion
The kernel of a ring homomorphism, as a two-sided ideal.
```

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 28]
```diff
@@ -0,0 +1,262 @@
...
+    x ∈ fromIdeal I ↔ x ∈ span I := by simp [fromIdeal]
+
+/-- Every two-sided ideal is also a left ideal. -/
+def asIdeal : TwoSidedIdeal R →o Ideal R where
+  toFun I :=
+  { carrier := I
+    add_mem' := I.add_mem
+    zero_mem' := I.zero_mem
+    smul_mem' := fun r x hx => I.mul_mem_left r x hx }
+  monotone' _ _ h _ h' := h h'
```
Comment (kbuzzard) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:221]: Are `fromIdeal` and `asIdeal` a Galois connection? If so then you might want to write a TODO leaving this as future work (or proving it here, if you can come up with some three-line slick thing).

**Review by kbuzzard — APPROVED** [review]
This all looks fine to me. I've made some mostly superficial comments. Thanks a lot!

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean (hunk 28 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:222]: Surely in that example I=R because it's generated by a unit?

Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:222]: Indeed, let me try to prove the claim

Comment (jjaassoonn) [reply Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:226]: I have added the `gc`, sorry for the stupid example

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 29]
```diff
@@ -0,0 +1,272 @@
...
+
+lemma mem_asIdeal {I : TwoSidedIdeal R} {x : R} :
+    x ∈ asIdeal I ↔ x ∈ I := by simp [asIdeal]
+
+lemma gc : GaloisConnection fromIdeal (asIdeal (R := R)) := fun I J =>
+⟨fun h x hx ↦ h <| mem_span_iff.2 fun _ H ↦ H hx, fun h x hx ↦ by
+  simp only [fromIdeal, OrderHom.coe_mk, mem_span_iff] at hx
+  exact hx _ h⟩
```
Comment (j-loreaux) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:234]:
```suggestion
lemma gc : GaloisConnection fromIdeal (asIdeal (R := R)) :=
  fun I J => ⟨fun h x hx ↦ h <| mem_span_iff.2 fun _ H ↦ H hx, fun h x hx ↦ by
    simp only [fromIdeal, OrderHom.coe_mk, mem_span_iff] at hx
    exact hx _ h⟩
```

**Comment by kbuzzard** [comment]
Thanks!

Maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
